US06869694B2
It is easy to synthesis the following compound in the same manner as in Example 1 except that 2-(benzofuran-2-yl)-5-bromopyridine was synthesized from 2,5-dibromopyridine (made by Tokyo Kasei Kogyo K.K.) and 2-benzofuranboronic acid (made by Aldrich Co.) and is reacted with 1-naphthylboronic acid (made by Tokyo Kasei Kogyo) to obtain 2-(benzofuran-2-yl)-5-(naphthalene-1-yl)pyridine, which is used instead of 2-(5-trifluoromethylpyridine-2-yl)benzofuran.

reactant | 2-(benzofuran-2-yl)-5-bromopyridine | O1C(=CC2=C1C=CC=C2)C2=NC=C(C=C2)Br | C13H8BrNO
reactant | 2,5-dibromopyridine | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | 2-benzofuranboronic acid | O1C(=CC2=C1C=CC=C2)B(O)O | C8H7BO3
reactant | 1-naphthylboronic acid | C1(=CC=CC2=CC=CC=C12)B(O)O | C10H9BO2
product | 2-(benzofuran-2-yl)-5-(naphthalene-1-yl)pyridine | O1C(=CC2=C1C=CC=C2)C2=NC=C(C=C2)C2=CC=CC1=CC=CC=C21 | C23H15NO
